US08071592B2
1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-(methyloxy)-2(1H)-quinolinone Hydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone (94 mg, 0.296 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (54 mg, 0.326 mmol) were combined in anhydrous DCM (5 ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (197 mg, 0.884 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale oil (62 mg, 45%) after column:chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 0.296 mmol, 94 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 0.884 mmol, 197 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-(methyloxy)-2(1H)-quinolinone Hydrochloride | 62 mg, 45% | Cl.O1CCOC=2C=NC(=CC21)CNC[C@H]2CN(C[C@H]2O)CCN2C(C=CC1=CC=C(C=C21)OC)=O | InChI=1S/C25H30N4O5.ClH/c1-32-20-4-2-17-3-5-25(31)29(21(17)11-20)7-6-28-15-18(22(30)16-28)12-26-13-19-10-23-24(14-27-19)34-9-8-33-23;/h2-5,10-11,14,18,22,26,30H,6-9,12-13,15-16H2,1H3;1H/t18-,22+;/m0./s1
